US08293909B2
6-Iodo-2-phenylpyrazolo[1,5-a]pyridine-3-carboxylic acid.
Methyl-6-iodo-2-phenylpyrazolo[1,5-a]pyridine-3-carboxylate (250 mg, 0.661 mmol) was dissolve in aqueous LiOH (2N, 1 mL), methanol (2 mL) and tetrahydrofuran (7 mL). This solution was stirred overnight at 45° C. After 24 hours, 2 mL 2M LiOH and 2 mL methanol were added. Heated at 55° C. overnight. The reaction was cooled on an ice water bath and aqueous hydrochloric acid (10 mL, 1N) was added dropwise until acidic by pH paper. Ethylacetate (200 mL) and water (40 mL) were added. The organic portion was extracted with brine (20 mL) and was dried over magnesium sulfate. The solvent was removed by rotory evaporation. The residue was place under vacuum overnight to give of a white solid (204 mg, 85%). 1H NMR (500 MHz, DMSO-D6) δ ppm 7.47 (m, 3H) 7.77 (m, 2H) 7.97 (d, J=9.46 Hz, 1H) 9.27 (s, 1H).

reactant | Methyl-6-iodo-2-phenylpyrazolo[1,5-a]pyridine-3-carboxylate | 0.661 mmol, 250 mg | COC(=O)C=1C(=NN2C1C=CC(=C2)I)C2=CC=CC=C2 | C15H11IN2O2
reactant | methanol | 2 mL | CO | CH4O
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
reactant | methanol | 2 mL | CO | CH4O
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | LiOH | 2N, 1 mL | [Li+].[OH-]
solvent | LiOH | 2M, 2 mL | [Li+].[OH-]
solvent | water | 40 mL | O | H2O
solvent | Ethylacetate | 200 mL | C(C)OC(C)=O | C4H8O2
product | 6-Iodo-2-phenylpyrazolo[1,5-a]pyridine-3-carboxylic acid | 204 mg, 85% | IC=1C=CC=2N(C1)N=C(C2C(=O)O)C2=CC=CC=C2 | C14H9IN2O2
